US04334089
17.2 g of 3-ethoxycarbonyl-6-(4-methoxyphenyl)-2-oxocaproic acid ethyl ester are prepared from 14.7 g of 5-(4-methoxyphenyl)-valeric acid ethyl ester and 11.8 g of diethyl oxalate, using sodium ethylate as the base, in a manner analogous to that in Example (1b).

reactant | 5-(4-methoxyphenyl)-valeric acid ethyl ester | 14.7 g | C(C)OC(CCCCC1=CC=C(C=C1)OC)=O | C14H20O3
reactant | diethyl oxalate | 11.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethylate | CC[O-].[Na+]
product | 3-ethoxycarbonyl-6-(4-methoxyphenyl)-2-oxocaproic acid ethyl ester | 17.2 g | C(C)OC(C(C(CCCC1=CC=C(C=C1)OC)C(=O)OCC)=O)=O | C18H24O6
